US05807905
1-Dimesitylboryl-4-diphenylborylbenzene
The compound is prepared in accordance with Method B described above, using 1 equivalent of dimesitylfluoroborane and 1 equivalent of diphenylisopropoxyborane. The crude product is obtained by concentrating the reaction mixture under a high vacuum and treating the solid residue, under argon, with hexane. Filtration, concentration of the filtrate and recrystallization of the residue from acetonitrile give 3.0 g (61% of theory) of the pale yellow title product, which is sensitive to air. Physical data are given in Tabelle 1.

reactant | dimesitylfluoroborane | 1 equivalent | C1(=C(C(=CC(=C1)C)C)B(F)C1=C(C=C(C=C1C)C)C)C | C18H22BF
reactant | diphenylisopropoxyborane | 1 equivalent | C1(=CC=CC=C1)B(OC(C)C)C1=CC=CC=C1 | C15H17BO
product | 1-Dimesitylboryl-4-diphenylborylbenzene | C1(=C(C(=CC(=C1)C)C)B(C1=CC=C(C=C1)B(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=C(C=C1C)C)C)C | C36H36B2
